US08049006B2
1-(4-bromo-3-nitrophenyl)-1-propanone (Compound S95)
To fuming nitric acid (200 ml), 1-(4-bromophenyl)-1-propanone (40 g) was added while keeping the inside temperature of the mixture at 5 to 10° C. The reaction solution was stirred at that temperature for 30 minutes and then poured into ice. The precipitate was collected by filtration, washed with distilled water, and recrystallized from methanol to obtain the title compound (18 g).

reactant | 1-(4-bromophenyl)-1-propanone | 40 g | BrC1=CC=C(C=C1)C(CC)=O | C9H9BrO
reactant | nitric acid | 200 ml | [N+](=O)(O)[O-] | HNO3
product | 1-(4-bromo-3-nitrophenyl)-1-propanone | 18 g | BrC1=C(C=C(C=C1)C(CC)=O)[N+](=O)[O-] | C9H8BrNO3
